US07423150B2
To N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-3-piperidin-4-ylpropanamide (1 eq) in methanol was added formalin (2 eq) and acetic acid(5%) followed by sodium cyanoborohydride (2 eq) and the resulting mixture was stirred at ambient temperature for 3 h. LC/MS showed formation of the product. The crude mixture was then concentrated and to it was added sodium bicarbonate and the resulting mixture was partitioned between ethyl acetate and water. The organic layer was dried with sodium sulfate and purified by preparative chromatography to yield N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-3-(1-methylpiperidin-4-yl)propanamide. MS: MH+=571.6.

reactant | N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-3-piperidin-4-ylpropanamide | 1 eq | FC1=C(C=C(C=C1)C(F)(F)F)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)NC(CCC2CCNCC2)=O | C28H28F4N6O2
reactant | formalin | 2 eq | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2 eq | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}-3-(1-methylpiperidin-4-yl)propanamide | FC1=C(C=C(C=C1)C(F)(F)F)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)NC(CCC2CCN(CC2)C)=O | C29H30F4N6O2
